US05864039
5-(4-tert-Butoxycarbonylaminomethylpiperidin-1-yl)pentylamine (1.2 g) was dissolved in methylene chloride (20 ml) and potassium carbonate (1.66 g) was added. Then, a solution of benzoyl chloride (0.47 ml) in methylene chloride was dropwise added under ice-cooling. The mixture was stirred at room temperature for 1 hr, and the reaction mixture was concentrated under reduced pressure. The residue was dissolved in 4N hydrochloric acid-dioxane solution (30 ml) and the mixture was stood at room temperature for 30 min. The reaction mixture was concentrated under reduced pressure. Dimethylformamide (30 ml) was added to the residue and the mixture was neutralized with triethylamine (1.1 ml). 4-Amino-5-chloro-2-methoxybenzoic acid (0.81 g) and 1-hydroxybenzotriazole (0.60 g) were added, and the mixture was stirred at 0° C. for 20 min. Then, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.85 g) was added and the mixture was stirred at room temperature for 8 hr. The reaction mixture was concentrated under reduced pressure. Aqueous potassium carbonate solution was added to the residue and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 0.68 g of 4-amino-N-(1-(5-benzoylaminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide.

reactant | 5-(4-tert-Butoxycarbonylaminomethylpiperidin-1-yl)pentylamine | 1.2 g | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CCCCCN | C16H33N3O2
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 0.47 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-amino-N-(1-(5-benzoylaminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 0.68 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNC(C2=CC=CC=C2)=O)C=C1Cl)OC | C26H35ClN4O3
